US04689345
3-(Cyclopenten-3-yl)valeraldehyde {2-cyclopentene-1-pentanal}
Pyridinium dichromate (621 g, 1.65 moles) is added to a solution of 3-(5-hydroxypent-1-yl)cyclopentene {2-cyclopentene-1-pentanol} (170 g, 1.10 moles) dissolved in methylene chloride (1552 ml). The solution is stirred at room temperature for 12 hours after which time isopropanol is added and the reaction stirred for 1 hour. The reaction is filtered through a pad of activated magnesium silicate (Florisil) and the solid rinsed with several portions of methylene chloride (3×400 ml). The solvent is removed under vacuum leaving a clear yellow oil. The crude product is kugelrohred under vacuum leaving clear, colorless oil (63 g, 0.414 moles).

reactant | Pyridinium dichromate | 1.65 moles, 621 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
reactant | 3-(5-hydroxypent-1-yl)cyclopentene | OCCCCCC1C=CCC1 | C10H18O
reactant | isopropanol | C(C)(C)O | C3H8O
solvent | methylene chloride | 1552 ml | C(Cl)Cl | CH2Cl2
product | 3-(Cyclopenten-3-yl)valeraldehyde | C1=CC(CC1)C(CC=O)CC | C10H16O
